US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)phenyl]-1-methyl-1H-imidazole-2-carboxamide
A mixture of N-[5-(3-aminophenoxy)[1,3]thiazolo[5,4-b]pyridin-2-yl]cyclopropanecarboxamide (175 mg, 0.536 mmol), 1-methyl-1H-imidazole-2-carboxylic acid (101 mg, 0.804 mmol), HATU (367 mg, 0.965 mmol), N,N-diisopropylethylamine (420 μL, 2.41 mmol) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=50/50→0/100) and recrystallized from ethyl acetate-tetrahydrofuran to give the title compound (152 mg, 65%) as a white solid.

reactant | N-[5-(3-aminophenoxy)[1,3]thiazolo[5,4-b]pyridin-2-yl]cyclopropanecarboxamide | 0.536 mmol, 175 mg | NC=1C=C(OC2=CC=C3C(=N2)SC(=N3)NC(=O)C3CC3)C=CC1 | C16H14N4O2S
reactant | 1-methyl-1H-imidazole-2-carboxylic acid | 0.804 mmol, 101 mg | CN1C(=NC=C1)C(=O)O | C5H6N2O2
reactant | HATU | 0.965 mmol, 367 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 2.41 mmol, 420 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)phenyl]-1-methyl-1H-imidazole-2-carboxamide | 152 mg, 65% | C1(CC1)C(=O)NC=1SC2=NC(=CC=C2N1)OC=1C=C(C=CC1)NC(=O)C=1N(C=CN1)C | C21H18N6O3S
